US04710491
N-Propyl-(2-amino-2-deoxy-D-glucopyranosyl)-amine hydrochloride
21.5 g of glucosamine hydrochloride were suspended in 17.7 g of n-propylamine and the suspension was warmed to 70°, until a clear solution was formed. On cooling to room temperature, the product precipitated.

reactant | glucosamine hydrochloride | 21.5 g | Cl.OC1[C@H](N)[C@@H](O)[C@H](O)[C@H](O1)CO
solvent | n-propylamine | 17.7 g | C(CC)N | C3H9N
product | N-Propyl-(2-amino-2-deoxy-D-glucopyranosyl)-amine hydrochloride | Cl.C(CC)NC1[C@@H]([C@@H](O)[C@H](O)[C@H](O1)CO)N | InChI=1S/C9H20N2O4.ClH/c1-2-3-11-9-6(10)8(14)7(13)5(4-12)15-9;/h5-9,11-14H,2-4,10H2,1H3;1H/t5-,6-,7-,8-,9?;/m1./s1
